US06689883B1
n-Butyllithium (2.5M in hexanes, 196 mL, 491 mmol) was introduced into a dry 3 L 3-necked flask fitted with an addition funnel, argon inlet, and mechanical stirrer. The mixture was diluted with dry THF (500 mL), and cooled to −78° C. 3-furoic acid (25 g, 223 mmol) was added as solution in THF (500 mL) dropwise. The mixture was stirred for 1.5 h, at which point dry carbon dioxide was bubbled through the reaction mixture for 1 h. After warming gradually to −10° C., the resultant thick white slurry was treated with aqueous HCl (2 N, 446 mL). The two layers were separated, and the aqueous layer was extracted with EtOAc (3×300 mL). The combined organics were dried (Na2SO4), filtered, and concentrated to afford crude furan-2,3-dicarboxylic acid as an orange solid (44 g) which was used without further purification. 1H NMR (300 MHz, d6-acetone) δ7.06 (d, J=1.7, 1), 7.97 (d, J=1.7, 1), 10.7 (bs, 2H);TLC (CHCl3/MeOH/H2O 6:4:1) Rf=0.56.

reactant | n-Butyllithium | 491 mmol, 2.5M, 196 mL | C(CCC)[Li]
reactant | 3-furoic acid | 223 mmol, 25 g | O1C=C(C=C1)C(=O)O | C5H4O3
reactant | carbon dioxide | C(=O)=O | CO2
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | furan-2,3-dicarboxylic acid | 44 g | O1C(=C(C=C1)C(=O)O)C(=O)O | C6H4O5
